US08426437B2
In a sealed tube, 1.16 g (4 mmol) of 7-chloro-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is dissolved in 5.3 mL (80 mmol) of chlorosulfonic acid. The reaction mixture is placed on an oil bath heated beforehand to 90° C. for 6 hours, cooled on an ice bath then poured slowly onto crushed ice. The solid is filtered, rinsed with water, diisopropyl ether and pentane then dried under vacuum to give 1.3 g (90%) of 7-chloro-8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid in the form of a brown solid.

reactant | 7-chloro-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 4 mmol, 1.16 g | ClC=1C=CC=2C3=C(C(NC2C1)=O)NC=C3.C(C)C(=O)[O-]
reactant | chlorosulfonic acid | 80 mmol, 5.3 mL | ClS(=O)(=O)O | ClHO3S
product | 7-chloro-8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 1.3 g, 90% | ClC=1C(=CC=2C3=C(C(NC2C1)=O)NC=C3C(=O)O)S(=O)(=O)Cl | C12H6Cl2N2O5S
